US08975254B2
c) (S)-3-acetyl-4-chloro-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 3-acetyl-4-chloro-1H-pyrazole-5-carboxylic acid (0.527 g, 2.79 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.56 g, 2.148 mmol). The product was purified by reverse phase flash chromatography. Yield 30.8%. 1H-NMR (400 MHz; DMSO-d6): δ 1.16 (d, 3H), 2.54 (s, 3H), 4.31 (dd, 1H), 4.37 (dd, 1H), 4.42-4.51 (m, 1H), 6.95 (d, 1H), 7.84 (d, 1H), 7.94 (dd, 1H), 7.98 (d, 1H), 8.06 (d, 1H), 8.27 (bs, 1H), 14.45 (s, 1H).

reactant | 3-acetyl-4-chloro-1H-pyrazole-5-carboxylic acid | 2.79 mmol, 0.527 g | C(C)(=O)C1=NNC(=C1Cl)C(=O)O | C6H5ClN2O3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 2.148 mmol, 0.56 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)-3-acetyl-4-chloro-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | Yield 30.8% | C(C)(=O)C1=NNC(=C1Cl)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16Cl2N6O2
